US08304419B2
Step B: ethyl 7-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1H-indole-2-carboxylate
Di-t-butyldicarbonate (0.389 g, 1.78 mmol) was added to a solution of ethyl 7-amino-1H-indole-2-carboxylate (0.303 g, 1.48 mmol) and triethylamine (0.41 mL, 2.97 mmol) in dichloromethane (15 mL). After stirring at RT overnight, the reaction mixture was diluted with dichloromethane and water. The organic layer was separated, dried over sodium sulfate and concentrated. The residue was purified by column chromatography (hexane/EtOAc) to give the title compound (0.271 g, 60%) as a light yellow solid. 1H NMR (400 MHz, CDCl3): δ ppm 10.30 (s, 1H), 7.46 (d, 1H), 7.21 (d, 1H), 6.98-7.09 (m, 1H), 6.93 (d, 1H), 6.82 (s, 1H), 4.42 (q, 2H), 1.53-1.58 (m, 9 H), 1.42 (t, 3H). MS: m/z 305 (M+1).

reactant | Di-t-butyldicarbonate | 1.78 mmol, 0.389 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl 7-amino-1H-indole-2-carboxylate | 1.48 mmol, 0.303 g | NC=1C=CC=C2C=C(NC12)C(=O)OCC | C11H12N2O2
reactant | triethylamine | 2.97 mmol, 0.41 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | ethyl 7-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1H-indole-2-carboxylate | 0.271 g, 60% | CC(C)(C)OC(=O)NC=1C=CC=C2C=C(NC12)C(=O)OCC | C16H20N2O4
